US05082847
To a cooled solution (0° C.) of 2-methoxy-5-acetyloxy-aniline (5 g, 0.0276 mole), 3,3-dimethoxy-propanoic acid (5 g, 0.0373 mole) in 75 ml of methylene chloride was added DCC (5.7 g, 0.0276 mole) in 20 ml of methylene chloride. After completion of the addition, the solution was stirred for a further 4 hours. The reaction medium was concentrated to 25 ml, diluted with 200 ml of isopropyl ether, cooled to 5° C. and the resulting precipitate was isolated by filtration, giving N-(3,3-dimethoxypropanoyl)-2-methoxy-5-acetoxy-aniline 7.7 g (Yield=95%).

reactant | 2-methoxy-5-acetyloxy-aniline | 0.0276 mole, 5 g | COC1=C(N)C=C(C=C1)OC(C)=O | C9H11NO3
reactant | 3,3-dimethoxy-propanoic acid | 0.0373 mole, 5 g | COC(CC(=O)O)OC | C5H10O4
reactant | DCC | 0.0276 mole, 5.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3,3-dimethoxypropanoyl)-2-methoxy-5-acetoxy-aniline | 7.7 g, Yield=95% | COC(CC(=O)NC1=C(C=CC(=C1)OC(C)=O)OC)OC | C14H19NO6
